US09034866B2
Synthesis of ethyl 9-bromo-4-(methoxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
A suspension of ethyl 9-bromo-4-(hydroxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (200 mg, 0.52 mmol, 1.00 equiv), MeI (750 mg, 5.28 mmol, 10.00 equiv) and silver oxide (480 mg, 2.07 mmol, 4.00 equiv) in dichloromethane (15 mL) was stirred for 6 h at 50° C. The solids were filtered out and the filtrate was concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:10) to give 110 mg (53%) of the titled compound as an off-white solid; LC-MS (ES, m/z) 398,400 [M+H]+.

reactant | ethyl 9-bromo-4-(hydroxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 0.52 mmol, 200 mg, 1.00 equiv | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)CO)C=C1 | C15H14BrNO4S
reactant | MeI | 5.28 mmol, 750 mg, 10.00 equiv | CI | CH3I
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | silver oxide | 2.07 mmol, 480 mg, 4.00 equiv | [Ag]=O
product | ethyl 9-bromo-4-(methoxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 110 mg, 53% | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)COC)C=C1 | C16H16BrNO4S
